### PR TITLE
feat: Annotations and missing lemmas for gmap

### LINKED ISSUE #254: Port algebra/gmap.v
## Summary

Port the remaining items from [`algebra/gmap.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/algebra/gmap.v).

> **Note:** Generalized in `Heap.lean` in the Lean port.

## Subtasks

- [ ] Updates

## Already ported

- [x] CMRA
- [x] Functors

## Dependencies

**Rocq dependencies:**

- #202
- #220
- #246
- #221
- #229
- #231

### PR DESCRIPTION
**Pull request by markusdemedeiros**
## Description
Ports the missing updates from gmap and closes #254 

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

## Generative AI Guidelines
AI assistance is permitted when making contributions to Iris-Lean, however, generative AI systems tend to produce code which takes a long time to review. 
Please carefully review your code to ensure it meets the following standards.

- Your PR should avoid duplicating constructions found in Iris-Lean or in the Lean standard library.
- `have` statements that do not aid readability or code reuse should be inlined. 
- Your proofs should be shortened such that their overall structure is explicable to a human reader. As a goal, aim to express one idea per line.
- In general, proofs should not perform substantially more case splitting than their Rocq counterparts.

In our experience, a good place to begin refactoring is by re-arranging and combining independent tactic invocations. 
We also find that pointing generative AI systems to the Mathlib code style guidelines can help them perform some of this refactoring work.

### CODE REVIEW

File: Iris/Iris/Algebra/CMRA.lean [hunk 1]
```diff
@@ -1481,6 +1481,15 @@ theorem some_inc_some_iff_is_total [IsTotal α] {a b : α} : some a ≼ some b 
   · exact ⟨_, H.symm.trans (op_core a).symm⟩
   · exact H
 
+@[rocq_alias option_fmap_mono]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/CMRA.lean:1697]: NOTE: Duplicated with #614. Delete before merging if CMRA wins the race.

File: Iris/Iris/Algebra/Heap.lean [hunk 2]
```diff
@@ -113,12 +260,18 @@ open PartialMap
...
+def pcore (s : M V) : Option (M V) := some <| bindAlter (fun _ => CMRA.pcore) s
+@[simp, rocq_alias gmap_valid_instance]
+def valid (s : M V) : Prop := ∀ k, ✓ get? s k
+@[simp, rocq_alias gmap_validN_instance]
+def validN (n : Nat) (s : M V) : Prop := ∀ k, ✓{n} get? s k
+
+@[rocq_alias lookup_includedN]
 theorem lookup_incN {n} {m1 m2 : M V} :
     (∃ (z : M V), m2 ≡{n}≡ op m1 z) ↔
     ∀ i, (∃ z, (get? m2 i) ≡{n}≡ (get? m1 i) • z) := by
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Heap.lean:337]: Could be restated in terms of actually includedN

File: Iris/Iris/Algebra/Heap.lean [hunk 3]
```diff
@@ -134,6 +287,7 @@ theorem lookup_incN {n} {m1 m2 : M V} :
     simp [CMRA.op, get?_merge, get?_bindAlter]
     cases get? m2 i <;> cases get? m1 i <;> cases f i <;> simp
 
+@[rocq_alias lookup_included]
 theorem lookup_inc {m1 m2 : M V} :
     (∃ (z : M V), m2 = op m1 z) ↔
     ∀ i, (∃ z, (get? m2 i) = (get? m1 i) • z) := by
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Heap.lean:353]: Also could be restated in terms of inc

**Review by lzy0505 — APPROVED** [review]
Following Rocq, moved some new theorems to a new `CMRABigOp.lean` file.  
Removed the unnecessary `IsoFunMap` class.

Didn't spend time golfing proofs as they are mostly acceptable and this is a blocking PR. 
We could do a cleanup to `Heap.lean` later.

**Comment by markusdemedeiros** [comment]
Excellent, and I agree fully. Thank you for looking it over :)
